US05968954
8-tert-butoxycarbonylaminothiochroman
At room temperature, 9.0 ml (64.4 mmol) of triethylamine, then 13.9 ml (64.4 mmol) of diphenylphosphoryl azide are added to 10 g (51.5 mmol) of thiochroman-8-carboxylic acid in 260 ml of toluene. The whole is heated at 90° C. for 2 hours, then 4.8 g (64.4 mmol) of tert-butanol dissolved in 10 ml of toluene are added dropwise and the temperature is subsequently maintained at 90° C. for a further 20 hours. The whole is allowed to cool and washed with 120 ml of water, 120 ml of 0.N hydrochloric acid, 120 ml of water, 120 ml of a saturated aqueous sodium hydrogen carbonate solution and 120 ml of water. After drying over magnesium sulphate and evaporation, the residue is taken up in cyclohexane and triturated, and a solid is removed by filtration; the filtrate is concentrated (13.3 g ) and then chromatographed on 1 kg of silica (eluant: dichloromethane) to yield 11.2 g of the desired product (yield: 82%).

reactant | triethylamine | 64.4 mmol, 9.0 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 64.4 mmol, 13.9 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | thiochroman-8-carboxylic acid | 51.5 mmol, 10 g | S1CCCC2=CC=CC(=C12)C(=O)O | C10H10O2S
reactant | tert-butanol | 64.4 mmol, 4.8 g | C(C)(C)(C)O | C4H10O
solvent | toluene | 260 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 8-tert-butoxycarbonylaminothiochroman | 11.2 g, yield: 82% | C(C)(C)(C)OC(=O)NC=1C=CC=C2CCCSC12 | C14H19NO2S
